US08541595B2
Step 2: 5-(aminomethyl)-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-1-ium Chloride
To a solution of tert-butyl {[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]methyl}carbamate (575 mg) in dioxane (2 mL) was added a HCl solution (3.265 mL, 4 M in dioxane) and stirred at room temperature for 1.5 h. After this time 1.5 mL more HCl solution was added and stirring continued for another 3 h. The reaction mixture was then concentrated (azeotroped once from toluene) and dried under vacuum to give title compound as a white solid. Mass. found (M+H)+, 342.0.

reactant | tert-butyl {[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]methyl}carbamate | 575 mg | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CNC(OC(C)(C)C)=O | C22H22BrN3O2
reactant | HCl | 4 M, 3.265 mL | Cl | ClH
reactant | HCl | 1.5 mL | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(aminomethyl)-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-1-ium Chloride | [Cl-].NCC1(N2C(C3=CC=CC=C13)=[NH+]C=C2)C2=CC=C(C=C2)Br | InChI=1S/C17H14BrN3.ClH/c18-13-7-5-12(6-8-13)17(11-19)15-4-2-1-3-14(15)16-20-9-10-21(16)17;/h1-10H,11,19H2;1H
